US07060844B2
To a stirred mixture of 3-(6-amino-3H-isobenzofuran-1-ylidene)-5-chloro-1,3-dihydro-indol-2-one (300 mg, 1.0 mmol) and triethylamine (0.41 ml, 3.0 mmol) in THF (10 ml), was added 3-bromopropionyl chloride (0.12 ml, 1.2 mmol). The mixture was heated at 45° C. for 2 hours, cooled to room temperature and poured into water (150 ml). The solid was filtered, washed with water and dried under vacuum to give crude product. The crude product was triturated with toluene to afforded N-[3-(5-chloro-2-oxo-1,2-dihydro-indol-3-ylidene)-1,3-dihydro-isobenzofuran-5-yl]-acrylamide as a bright yellow solid (315 mg, 89%).

reactant | 3-(6-amino-3H-isobenzofuran-1-ylidene)-5-chloro-1,3-dihydro-indol-2-one | 1.0 mmol, 300 mg | NC1=CC=C2COC(C2=C1)=C1C(NC2=CC=C(C=C12)Cl)=O | C16H11ClN2O2
reactant | triethylamine | 3.0 mmol, 0.41 ml | C(C)N(CC)CC | C6H15N
reactant | 3-bromopropionyl chloride | 1.2 mmol, 0.12 ml | BrCCC(=O)Cl | C3H4BrClO
reactant | water | 150 ml | O | H2O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | N-[3-(5-chloro-2-oxo-1,2-dihydro-indol-3-ylidene)-1,3-dihydro-isobenzofuran-5-yl]-acrylamide | 315 mg, 89% | ClC=1C=C2C(C(NC2=CC1)=O)=C1OCC2=CC=C(C=C12)NC(C=C)=O | C19H13ClN2O3
